US04091109
Thirty-five percent hydrogen peroxide solution (1.6 g, 0.016 mole) was added at 8°-10° C to a mixture of 4-methyl-3-n-propylthiophenyl 3-trifluoromethylphenyl ether (3.8 g, 0.012 mole) and glacial acetic acid (30 ml). After 5 hr at room temperature, the reaction mixture was poured into water (100 ml) and extracted three times with benzene. The combined organic layers were washed with 5 % sodium carbonate solution, then water and dried over sodium sulfate. Evaporation of the solvent gave 3.8 g (92.5 %) of 4-methyl-3-n-propylsulfinylphenyl 3-trifluoromethylphenyl ether, colorless oil, nD25 1.5350. Anal. Found: C, 59.50; H, 5.11. Calcd. for C17H17F3O2S : C, 59.64; H, 5.01 %.

reactant | hydrogen peroxide | 0.016 mole, 1.6 g | OO | H2O2
reactant | 4-methyl-3-n-propylthiophenyl 3-trifluoromethylphenyl ether | 0.012 mole, 3.8 g | FC(C=1C=C(C=CC1)OC1=CC(=C(C=C1)C)SCCC)(F)F | C17H17F3OS
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 4-methyl-3-n-propylsulfinylphenyl 3-trifluoromethylphenyl ether | 3.8 g, 92.5 % | FC(C=1C=C(C=CC1)OC1=CC(=C(C=C1)C)S(=O)CCC)(F)F | C17H17F3O2S
